US05821261
Step C: (4S)-1-(tert-Butyloxycarbonyl)-4-[N,N'-Bis(tert-Butyl-oxycarbonyl)guanidino]-L-Proline tert-Butyl Ester
A solution of (4R)-1-(tert-butyloxycarbonyl)-4-amino-L-proline tert-butyl ester (134 mg, 0.468 mmol) and N,N'-bis(tert-butyloxycarbonyl)-S-methyl-isothiourea (150 mg, 0.515 mmol) in N,N-dimethylformamide (2 mL) was heated for 15 hours at 55° C. and 2 days at room temperature under a nitrogen atmosphere. The reaction mixture was diluted with diethyl ether, washed with water, dried (Na2SO4), and evaporated. The title compound was obtained pure by flash silica gel chromatography eluting with 10% ethyl acetate/hexane; yield 60.2 mg (24%). Mass spectrum: m/z 529 (M+1); 400 MHz 1H NMR (CD3OD): δ1.44-1.52 (4s, 36H); 2.08 (m, 1H); 2.59 (m, 1H); 3.42 (m, 1H); 3.78 (m, 1H); 4.23 (dd, 1H); 4.57 (m, 1H).

reactant | (4R)-1-(tert-butyloxycarbonyl)-4-amino-L-proline tert-butyl ester | 0.468 mmol, 134 mg | C(C)(C)(C)OC([C@H]1N(C[C@@H](C1)N)C(=O)OC(C)(C)C)=O | C14H26N2O4
reactant | N,N'-bis(tert-butyloxycarbonyl)-S-methyl-isothiourea | 0.515 mmol, 150 mg | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4S)-1-(tert-Butyloxycarbonyl)-4-[N,N'-Bis(tert-Butyl-oxycarbonyl)guanidino]-L-Proline tert-Butyl Ester | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)N(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C25H44N4O8
